US05589489
3-[1-(3,4-Dichlorophenyl)-3-(4-acetamido-4-phenylpiperidino)propyl]-7-hydroxy-2-methyl-2,3-dihydroisoindol-1-one hydrochloride
3-(3,4-Dichlorophenyl)-3-(4-hydroxy-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde (0.2.0 g) was coupled to 4-acetamido-4-phenylpiperidine (0.14 g) by a method similar to that described in Example 8. The reaction product was purified by chromatography and converted to the corresponding hydrochloride salt as described in the Example 8 to afford the title compound (0.27 g); mp 185°-205° C.; MS: m/z=566(M+1); NMR(CD3SOCD3): 2.88 (m,1), 2.96 (s,3), 4.79 (d,1, J=3.5), 6.86 (m,2), 7.09 (d,1, J=1.8), 7.20-7.47 (m,8). Analysis for C31H33Cl2N3O2.1.0 HCl.1.5 H2O: Calculated: C, 59.10; H, 5.91, N, 6.67; Found: C, 59.51; H, 5.63; N, 6.23.

reactant | 3-(3,4-Dichlorophenyl)-3-(4-hydroxy-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde | ClC=1C=C(C=CC1Cl)C(CC=O)C1N(C(C2=C(C=CC=C12)O)=O)C | C18H15Cl2NO3
reactant | 4-acetamido-4-phenylpiperidine | 0.14 g | C(C)(=O)NC1(CCNCC1)C1=CC=CC=C1 | C13H18N2O
product | 3-[1-(3,4-Dichlorophenyl)-3-(4-acetamido-4-phenylpiperidino)propyl]-7-hydroxy-2-methyl-2,3-dihydroisoindol-1-one hydrochloride | 0.27 g | Cl.ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)(C1=CC=CC=C1)NC(C)=O)C1N(C(C2=C(C=CC=C12)O)=O)C | InChI=1S/C31H33Cl2N3O3.ClH/c1-20(37)34-31(22-7-4-3-5-8-22)14-17-36(18-15-31)16-13-23(21-11-12-25(32)26(33)19-21)29-24-9-6-10-27(38)28(24)30(39)35(29)2;/h3-12,19,23,29,38H,13-18H2,1-2H3,(H,34,37);1H
